US07842688B2
b) Benzyl 4-(4-chloromethylphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
The stirred solution of 0.980 g of benzyl 4-(4-hydroxymethylphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate and 20 ml of dichloromethane is admixed with 2.12 ml of 1-chloro-N,N,2-trimethylpropenylamine (chlorenamine) in portions over 24 hours. The reaction mixture is poured onto water (100 ml) and extracted with tert-butyl methyl ether (100 ml). The organic phase is washed with brine (50 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.39 (2:1 EtOAc-heptane); Rt=5.57

reactant | benzyl 4-(4-hydroxymethylphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.980 g | OCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C33H40N2O6
reactant | 1-chloro-N,N,2-trimethylpropenylamine | 2.12 ml | ClC(=C(C)C)N(C)C | C6H12ClN
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Benzyl 4-(4-chloromethylphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | ClCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C33H39ClN2O5
